** Name: SimpleTwoStageOpAmp_SimpleOpAmp44_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp44_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=13e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=7e-6 W=20e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=317e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=7e-6 W=22e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=4e-6 W=253e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=317e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=7e-6 W=22e-6
mNormalTransistorNmos9 FirstStageYout1 inputVoltageBiasXXnXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=7e-6 W=22e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=7e-6 W=47e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=7e-6 W=47e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=90e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=59e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=220e-6
mNormalTransistorPmos16 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=8e-6 W=507e-6
mNormalTransistorPmos17 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=4e-6 W=253e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=459e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=459e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=85e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 9.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp44_9

** Expected Performance Values: 
** Gain: 116 dB
** Power consumption: 13.3151 mW
** Area: 14890 (mu_m)^2
** Transit frequency: 7.56401 MHz
** Transit frequency with error factor: 7.56416 MHz
** Slew rate: 9.11413 V/mu_s
** Phase margin: 65.3172°
** CMRR: 131 dB
** VoutMax: 4.25 V
** VoutMin: 0.980001 V
** VcmMax: 4.01001 V
** VcmMin: -0.0899999 V


** Expected Currents: 
** NormalTransistorPmos: -91.2489 muA
** NormalTransistorPmos: -59.4339 muA
** NormalTransistorNmos: 86.1811 muA
** NormalTransistorNmos: 129.271 muA
** NormalTransistorNmos: 86.1821 muA
** NormalTransistorNmos: 129.272 muA
** NormalTransistorPmos: -86.1819 muA
** NormalTransistorPmos: -86.1829 muA
** DiodeTransistorPmos: -86.1819 muA
** NormalTransistorPmos: -86.1789 muA
** NormalTransistorPmos: -43.0899 muA
** NormalTransistorPmos: -43.0899 muA
** NormalTransistorNmos: 2233.75 muA
** DiodeTransistorNmos: 2233.75 muA
** NormalTransistorPmos: -2233.74 muA
** DiodeTransistorNmos: 91.2481 muA
** NormalTransistorNmos: 91.2471 muA
** DiodeTransistorNmos: 59.4331 muA
** DiodeTransistorNmos: 59.4321 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19901  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.38601  V
** inputVoltageBiasXXnXX2: 1.77901  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.693001  V
** outSourceVoltageBiasXXnXX2: 0.880001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.16101  V
** out1: 3.32201  V
** sourceGCC1: 0.803001  V
** sourceGCC2: 0.803001  V
** sourceTransconductance: 3.25501  V
** inner: 0.692001  V


.END