** Name: SimpleTwoStageOpAmp_SimpleOpAmp46_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp46_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=47e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=290e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=143e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=265e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=51e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=481e-6
mNormalTransistorNmos9 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=55e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=246e-6
mNormalTransistorNmos11 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=55e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=110e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=110e-6
mNormalTransistorPmos14 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=265e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=143e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=34e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=34e-6
mNormalTransistorPmos19 FirstStageYsourceTransconductance outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=89e-6
mNormalTransistorPmos20 SecondStageYinnerStageBias outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=473e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp46_3

** Expected Performance Values: 
** Gain: 119 dB
** Power consumption: 6.68101 mW
** Area: 5978 (mu_m)^2
** Transit frequency: 4.56901 MHz
** Transit frequency with error factor: 4.5691 MHz
** Slew rate: 19.6842 V/mu_s
** Phase margin: 65.3172°
** CMRR: 133 dB
** VoutMax: 4.59001 V
** VoutMin: 0.520001 V
** VcmMax: 3.53001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 477.21 muA
** NormalTransistorNmos: 241.971 muA
** NormalTransistorNmos: 71.3951 muA
** NormalTransistorNmos: 107.909 muA
** NormalTransistorNmos: 71.3951 muA
** NormalTransistorNmos: 107.909 muA
** DiodeTransistorPmos: -71.3959 muA
** DiodeTransistorPmos: -71.3969 muA
** NormalTransistorPmos: -71.3959 muA
** NormalTransistorPmos: -71.3969 muA
** NormalTransistorPmos: -73.0289 muA
** NormalTransistorPmos: -36.5139 muA
** NormalTransistorPmos: -36.5139 muA
** NormalTransistorNmos: 391.218 muA
** NormalTransistorPmos: -391.217 muA
** NormalTransistorPmos: -391.218 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -477.209 muA
** DiodeTransistorPmos: -241.97 muA


** Expected Voltages: 
** ibias: 1.13401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.929001  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outVoltageBiasXXpXX2: 4.22101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.19901  V
** innerTransistorStack2Load2: 4.19801  V
** out1: 3.46101  V
** sourceGCC1: 0.553001  V
** sourceGCC2: 0.553001  V
** sourceTransconductance: 3.75401  V
** innerStageBias: 4.44101  V


.END