** Name: SimpleTwoStageOpAmp_SimpleOpAmp46_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp46_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=5e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=8e-6 W=160e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=32e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=86e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=554e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=4e-6 W=24e-6
mNormalTransistorNmos8 FirstStageYout1 inputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=4e-6 W=24e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=17e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=17e-6
mNormalTransistorPmos11 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=8e-6 W=504e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos4 L=8e-6 W=302e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=208e-6
mNormalTransistorPmos14 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=86e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=32e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=100e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=10e-6 W=100e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=8e-6 W=379e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp46_7

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 5.95701 mW
** Area: 14458 (mu_m)^2
** Transit frequency: 6.34401 MHz
** Transit frequency with error factor: 6.34355 MHz
** Slew rate: 9.53671 V/mu_s
** Phase margin: 70.4739°
** CMRR: 141 dB
** VoutMax: 4.25 V
** VoutMin: 0.150001 V
** VcmMax: 4.01001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -31.5779 muA
** NormalTransistorPmos: -19.0479 muA
** NormalTransistorNmos: 20.3101 muA
** NormalTransistorNmos: 32.3791 muA
** NormalTransistorNmos: 20.3101 muA
** NormalTransistorNmos: 32.3791 muA
** DiodeTransistorPmos: -20.3109 muA
** DiodeTransistorPmos: -20.3119 muA
** NormalTransistorPmos: -20.3109 muA
** NormalTransistorPmos: -20.3119 muA
** NormalTransistorPmos: -24.1349 muA
** NormalTransistorPmos: -12.0679 muA
** NormalTransistorPmos: -12.0679 muA
** NormalTransistorNmos: 1055.96 muA
** NormalTransistorPmos: -1055.95 muA
** DiodeTransistorNmos: 31.5771 muA
** DiodeTransistorNmos: 19.0471 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.26801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.954001  V
** inputVoltageBiasXXnXX2: 0.555001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.16901  V
** innerTransistorStack2Load2: 4.16801  V
** out1: 3.44201  V
** sourceGCC1: 0.350001  V
** sourceGCC2: 0.350001  V
** sourceTransconductance: 3.32301  V


.END