** Name: SimpleTwoStageOpAmp_SimpleOpAmp46_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp46_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=9e-6 W=201e-6
mDiodeTransistorPmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=38e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=2e-6 W=29e-6
mNormalTransistorNmos6 out outInputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=381e-6
mNormalTransistorNmos7 outFirstStage outInputVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=3e-6 W=27e-6
mNormalTransistorNmos8 FirstStageYout1 outInputVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=3e-6 W=27e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=53e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=591e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=8e-6 W=296e-6
mNormalTransistorPmos13 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=2e-6 W=29e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=9e-6 W=51e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=2e-6 W=38e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=8e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=8e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=9e-6 W=449e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp46_8

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 2.32801 mW
** Area: 12397 (mu_m)^2
** Transit frequency: 3.33801 MHz
** Transit frequency with error factor: 3.3383 MHz
** Slew rate: 8.28779 V/mu_s
** Phase margin: 65.3172°
** CMRR: 132 dB
** VoutMax: 4.25 V
** VoutMin: 0.740001 V
** VcmMax: 3.88001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -2.54099 muA
** NormalTransistorNmos: 22.3161 muA
** NormalTransistorNmos: 33.6491 muA
** NormalTransistorNmos: 22.3161 muA
** NormalTransistorNmos: 33.6491 muA
** DiodeTransistorPmos: -22.3169 muA
** DiodeTransistorPmos: -22.3179 muA
** NormalTransistorPmos: -22.3169 muA
** NormalTransistorPmos: -22.3179 muA
** NormalTransistorPmos: -22.6689 muA
** NormalTransistorPmos: -11.3339 muA
** NormalTransistorPmos: -11.3339 muA
** NormalTransistorNmos: 375.676 muA
** NormalTransistorNmos: 375.675 muA
** NormalTransistorPmos: -375.675 muA
** DiodeTransistorNmos: 2.54001 muA
** DiodeTransistorNmos: 2.54001 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.27701  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.11001  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 4.17901  V
** innerTransistorStack2Load2: 4.17901  V
** out1: 3.32201  V
** sourceGCC1: 0.533001  V
** sourceGCC2: 0.533001  V
** sourceTransconductance: 3.46101  V
** innerStageBias: 0.518001  V


.END